US06022970
B. Preparation of 2-Anilinoacridone
Similar good results are obtainable when 2,5-dianilinoterephthalic acid is replaced by 2,5-di-p-toluidinoterephthalic acid or 2,5-di(4-chloroanilino)terephthalic acid.

reactant | 2,5-dianilinoterephthalic acid | N(C1=CC=CC=C1)C1=C(C(=O)O)C=C(C(=C1)C(=O)O)NC1=CC=CC=C1 | C20H16N2O4
reactant | 2,5-di-p-toluidinoterephthalic acid | C1(=CC=C(C=C1)NC1=C(C(=O)O)C=C(C(=C1)C(=O)O)NC1=CC=C(C=C1)C)C | C22H20N2O4
reactant | 2,5-di(4-chloroanilino)terephthalic acid | ClC1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)C(=O)O)NC2=CC=C(C=C2)Cl)C=C1 | C20H14Cl2N2O4
product | 2-Anilinoacridone | N(C1=CC=CC=C1)C1=CC=2C(C3=CC=CC=C3NC2C=C1)=O | C19H14N2O
